US09260439B2
Step 6: Preparation of 5-[7-(3,3-difluorocyclobutyl)-2-(methylsulfinyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]pyrimidin-2-amine
To a suspension of crude 5-[7-(3,3-difluorocyclobutyl)-2-(methylsulfanyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]pyrimidin-2-amine (˜80% purity) (768 mg, 2.63 mmol) in DCM (87 mL) at 0° C. was added m-chloroperbenzoic acid (844 mg, 3.42 mmol, 70% purity) in three portions over 1 min. The reaction mixture was stirred at 0° C. for 15 min, whereupon it was diluted with DCM and washed with saturated aqueous NaHCO3 and water. The organic layer was concentrated and purified via HPLC reversed phase column (0-50% of gradient A to B over 25 min; A: water with 0.1% acetic acid, B: acetonitrile with 0.1% acetic acid) to afford the title compound (251 mg, 26%). 1H NMR (400 MHz, DMSO-d6) δ 8.80 (s, 2 H), 7.19 (s, 2 H), 4.61-4.48 (m, 1 H), 3.83 (t, J=8.4 Hz, 2 H), 3.38-3.31 (m, 2 H), 3.14-2.98 (m, 2 H), 2.97-2.85 (m, 2 H), 2.83 (s, 3 H). m/z (APCI+) for C15H16F2N6OS 367.1 (M+H)+.

reactant | 5-[7-(3,3-difluorocyclobutyl)-2-(methylsulfanyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]pyrimidin-2-amine | 2.63 mmol, 768 mg | FC1(CC(C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)SC)F | C15H16F2N6S
reactant | m-chloroperbenzoic acid | 3.42 mmol, 844 mg | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | DCM | 87 mL | C(Cl)Cl | CH2Cl2
product | 5-[7-(3,3-difluorocyclobutyl)-2-(methylsulfinyl)-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl]pyrimidin-2-amine | 251 mg, 26% | FC1(CC(C1)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)S(=O)C)F | C15H16F2N6OS
